US07435837B2
Treatment of (±)-1-[7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (1.6 g, 5.4 mmol) with diisopropylethylamine (1.197 g, 9.26 mmol) and benzyl chloroformate (1.02 g, 5.96 mmol) generally according to the procedure described for Intermediate 12 afforded 1.59 g (75%) of (±)-benzyl[7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate as a colorless oil. Rf=0.56 (silica, ethyl acetate:hexanes 1:9); Anal. calcd. for C23H20ClNO3: C, 70.14; H, 5.12; N, 3.56. Found: C, 69.11; H, 5.07; N, 3.37. Chiral HPLC separation of (±)-benzyl[7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate (Chiralcel OD, hexane:isopropanol 9:1) provided two fractions. Fraction 1 (Rt=15.935 min Chiralcel OD, hexane:isopropanol 9:1); Fraction 2 (Rt=18.546 min, Chiralcel OD, hexane:isopropanol 9:1).

reactant | (±)-1-[7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 5.4 mmol, 1.6 g | ClC=1C=C(C=CC1)C1=CC=CC=2CC(OC21)CN | C15H14ClNO
reactant | diisopropylethylamine | 9.26 mmol, 1.197 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 5.96 mmol, 1.02 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 1.59 g, 75% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)Cl)=O | C23H20ClNO3
